US05585485
(Z)-2-[(1-ethoxycarbonylmethoxy)imino]-2-(1H-pyrazol-3-yl)thioacetic-acid-S-benzothiazol-2-ylester
41.5 g of bis-(benzothiazol-2-yl)disulphide are added to a solution of 32.7 g of triphenylphosphine in a mixture of 200 ml of 1,1,1-trichloroethane and 40 ml of acetone. The suspension is stirred for 2 hours. Then, 24.1 g of (Z)-2-[(1-ethoxycarbonylmethoxy)imino]-2-(1H-pyrazol-3-yl)-acetic acid are added at 0°, and stirring is effected for 2 hours at 0°. The deposit is filtered off, washed with 1,1,1-trichloroethane and dried. 29.4 g of the title compound are obtained as a slightly yellowish-coloured product. M.p.: 112°-114°.

reactant | bis-(benzothiazol-2-yl)disulphide | 41.5 g | S1C(=NC2=C1C=CC=C2)SSC=2SC1=C(N2)C=CC=C1 | C14H8N2S4
reactant | triphenylphosphine | 32.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (Z)-2-[(1-ethoxycarbonylmethoxy)imino]-2-(1H-pyrazol-3-yl)-acetic acid | 24.1 g | C(C)OC(=O)CO\N=C(/C(=O)O)\C1=NNC=C1 | C9H11N3O5
solvent | 1,1,1-trichloroethane | 200 ml | ClC(C)(Cl)Cl | C2H3Cl3
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | (Z)-2-[(1-ethoxycarbonylmethoxy)imino]-2-(1H-pyrazol-3-yl)thioacetic-acid-S-benzothiazol-2-ylester | 29.4 g | S1C(=NC2=C1C=CC=C2)SC(\C(\C2=NNC=C2)=N/OCC(=O)OCC)=O | C16H14N4O4S2
